US07253174B2
(b) Synthesis of 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-N-methoxy-4-methyl-benzamide
3-(6-Chloro-5-cyano-2-methylsulfanyl-pyrimidin-4-ylamino)-N-methoxy-4-methyl-benzamide (3.33 g, 9.2 mmol), N-methyl-neopentylamine hydrochloride (2.05 g, 15 mmol) and DIEA (3.87 g, 30 mmol) in THF (10 mL) were heated to 60° C. for overnight. The solvent was removed in vacuo and the product (1.75 g) was obtained after purification by silica gel column chromatography.

reactant | 3-(6-Chloro-5-cyano-2-methylsulfanyl-pyrimidin-4-ylamino)-N-methoxy-4-methyl-benzamide | 9.2 mmol, 3.33 g | ClC1=C(C(=NC(=N1)SC)NC=1C=C(C(=O)NOC)C=CC1C)C#N | C15H14ClN5O2S
reactant | N-methyl-neopentylamine hydrochloride | 15 mmol, 2.05 g | Cl.CNCC(C)(C)C
reactant | DIEA | 30 mmol, 3.87 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methylsulfanyl-pyrimidin-4-ylamino}-N-methoxy-4-methyl-benzamide | 1.75 g | C(#N)C=1C(=NC(=NC1N(C)CC(C)(C)C)SC)NC=1C=C(C(=O)NOC)C=CC1C | C21H28N6O2S
